US06043242
3. 6-{3-[3-Methyl-2-(pyridin-4-ylsulfanylmethyl)-pyridin-4-ylsulfanyl]propylsulfanyl}-3-nitro-imidazo[1,2-b]pyridazine hydrochloride
0.53 g (1.3 mmol) of 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitro-imidazo[1,2-b]pyridazine and 0.15 g (1.3 mmol) of 4-mercaptopyridine in 30 ml of isopropanol are reacted as described in Example 2. 0.59 g (87%) of the title compound of m.p. 174-178° C. is isolated.

reactant | 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitro-imidazo[1,2-b]pyridazine | 1.3 mmol, 0.53 g | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
reactant | 4-mercaptopyridine | 1.3 mmol, 0.15 g | SC1=CC=NC=C1 | C5H5NS
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 6-{3-[3-Methyl-2-(pyridin-4-ylsulfanylmethyl)-pyridin-4-ylsulfanyl]propylsulfanyl}-3-nitro-imidazo[1,2-b]pyridazine hydrochloride | 0.59 g, 87% | Cl.CC=1C(=NC=CC1SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-])CSC2=CC=NC=C2 | InChI=1S/C21H20N6O2S3.ClH/c1-15-17(14-32-16-5-8-22-9-6-16)23-10-7-18(15)30-11-2-12-31-20-4-3-19-24-13-21(27(28)29)26(19)25-20;/h3-10,13H,2,11-12,14H2,1H3;1H
